datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[C:63]1=[C:62]([CH:11]=[CH2:10])[C:73](C)=[CH:74][C:65](C)=[CH:64]1.[O-][N+:22]([C:21]1=[CH:20]N2N=N[N:35]=[C:34]2[CH:33]=[CH:32]1)=[O:23]>>C[C:63]1=[C:62]([CH+:11][CH2:10][CH:20]2N3N=N[N:35]=[C:34]3[CH:33]=[CH:32][C:21]2=[N+:22]([O-])[O-:23])[C:73](C)=[CH:74][C:65](C)=[CH:64]1 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[CH:22]=[N+:23]2/C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1.[CH:10]1=[C:11]([O-:12])[NH:82][C:73](=[S:74])[NH:82][C:61]1=[O:62]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2[C:11](=[O:12])[NH:82][C:73](=[S:74])[NH:82][C:61]2=[O:62])[CH:21]=[CH:22][N:23]2C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC=C([S:61]([NH-:10])(=[O:62])=[O:63])C=C1.C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1>>CC1=CC=C([S:61]([NH:10][CH:20]([N:21](C)C)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)(=[O:62])=[O:63])C=C1 10=20;20,21=21"
"CC(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)C)=[O:23].NC[C@@H]1CCC[NH:10]1>>CC(C)[O:33][C:22](=[N:21][N:20]([NH+:10]1CCC[C@H]1CN)[C:41](=[O:42])[O:43]C(C)C)[O-:23] 10=20;20,21=21,22;22,23=23"
"C[O:37][C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.[O:10]=[C:11]1[C:12](=[N+:13]([O-:14])[O-:64])[CH:73]=[CH:74][CH:75]=[CH:76]1>>C[O:37][C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([O:10][C:11]2=[C:12]([N+:13](=[O:14])[O-:64])[CH:73]=[CH:74][CH:75]=[CH:76]2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14=13,14"
"C[N:12]1[CH:11]=[CH:10][C:61]2=[C:62]1[CH:63]=[CH:64][CH:73]=[CH:72]2.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[N+:12]1=[CH:11][CH:10]([C:20]([C:31]2=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[C:61]2=[C:62]1[CH:63]=[CH:64][CH:73]=[CH:72]2 10,11=10,20;12=11,12"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1.[CH:10]1=[CH:11][CH:12]=[CH:13][O:14]1>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH:10]2[CH:11]=[CH:12][CH:13]=[O+:14]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CC[O:82][C:71]([C-:10]1CCC[C:62]1=[O:61])=[O:72].FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].CC[O:82][C:71]([C:10]1([S:20]C(F)(F)F)CCC[C:62]1=[O:61])=[O:72] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([Sn:63](C2=CC=CC=C2)(C2=CC=CC=C2)[CH2:62][CH:11]=[CH2:10])C=C1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH2:10][CH+:11][CH2:62][Sn:63](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C1(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1.C[N+:23]1=[C:22]2C=CC=C[C:21]2=[CH:20][C:31]2=[C:32]1C=CC=C2>>C[N:23]1[C:22]2=[C:21](C=CC=C2)[CH:20]([CH:10]2[CH:11]=[NH+:12][C:62]3=[C:61]2[CH:72]=[C:73](C)[CH:64]=[CH:63]3)[C:31]2=[C:32]1C=CC=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.CO[C-:10]1[S:61](=[O:62])(=[O:82])C2=C(C=CC=C2)[S:71]1(=[O:72])=[O:92]>>CO[C:10]1([CH:20]([C:31]2=[CH:36][C:35]3=[C:34]4N(CCC[C:33]4=[CH:32]2)CCC3)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[S:61](=[O:62])(=[O:82])C2=C(C=CC=C2)[S:71]1(=[O:72])=[O:92] 10=20
"CC[O:33][C:22]([CH:21]=[CH2:20])=[O:23].[H][C-:10]([C:61](=[O:62])[O:92]CC)[C:71](=[O:72])[O:82]CC>>[H][C:10]([CH2:20][CH:21]=[C:22]([O-:23])[O:33]CC)([C:61](=[O:62])[O:92]CC)[C:71](=[O:72])[O:82]CC 10=20;20,21=21,22;22,23=23"
"C[N+:23]1=[CH:22]/[C:21](=[CH:20]/[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)C2=C1C=CC=C2.C[Si:11](C)([H:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1>>C[N:23]1C2=C(C=CC=C2)[C:21]([CH:20]([H:10])[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)=[CH:22]1.C[Si+:11](C)[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:24](/[N:23]=[N:22]/[C:21](C)=[CH:20]/[C:31](=[O:32])[N:33](C)C)=[O:25].[H:10][CH:11]([CH:12]=[CH2:13])[CH:62]=[CH2:63]>>CO[C:24](=[N:23][N:22]=[C:21](C)[CH:20]([H:10])[C:31](=[O:32])[N:33](C)C)[O-:25].[CH:11](=[CH:12][CH2+:13])[CH:62]=[CH2:63] 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23,24;24,25=25"
